US06090839
Step G: Preparation of 2-(2-(3-Phenyl-7-propylbenzofuran-6-yloxy)ethyl)indole-5-acetic acid
A solution of 18.6 mg (39.8 mmol) of methyl 2-(2-(3-phenyl-7-propylbenzofuran-6-yloxy)-ethyl)-indole-5-acetate in ca. 2.0 ml of methanol and 1 M aqueous LiOH (79.6 uL) was heated at 60° C. for 16 hours. The mixture was diluted with ethyl acetate and acidified to pH 5-6 with 1 M HCl, washed with water (2 times), brine (1 time) and dried over sodium sulfate and concentrated to afford 11.6 mg of the title compound. (mp=129-130° C.).

reactant | methyl 2-(2-(3-phenyl-7-propylbenzofuran-6-yloxy)-ethyl)-indole-5-acetate | 39.8 mmol, 18.6 mg | C1(=CC=CC=C1)C1=COC2=C1C=CC(=C2CCC)OCCC=2NC1=CC=C(C=C1C2)CC(=O)OC | C30H29NO4
reactant | HCl | 1 M | Cl | ClH
solvent | methanol | ca. 2.0 ml | CO | CH4O
solvent | LiOH | 1 M, 79.6 uL | [Li+].[OH-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-(3-Phenyl-7-propylbenzofuran-6-yloxy)ethyl)indole-5-acetic acid | 11.6 mg | C1(=CC=CC=C1)C1=COC2=C1C=CC(=C2CCC)OCCC=2NC1=CC=C(C=C1C2)CC(=O)O | C29H27NO4
